US07348456B2
Step A: Methyl 2-(2-Methoxyphenyloxy)propenoate
To a solution of 2,3-dihydro-1,4-benzodioxine-2-carboxylic acid (1.0 g, 5.6 mmol) in methylene chloride (10 mL) and methanol (10 mL) at 0° C. was added trimethylsilyldiazomethane (2 M in hexane) until yellow color persisted, and the reaction was stirred at room temperature for 15 min. The reaction mixture was concentrated to dryness and azeotroped with toluene. The residue was dissolved in anhydrous tetrahydrofuran (20 mL), and was added methyl iodide (1.8 mL, 28 mmol) and potassium hexamethyldisilazide (0.5 M in toluene, 17 mL, 8.5 mmol) at −78° C. The reaction was allowed to warm to room temperature over 4 h, diluted with ethyl acetate (100 mL), washed with saturated ammonium chloride (100 mL) and water (100 mL), dried over anhydrous sodium sulfate, filtered, and concentrated to dryness to give the title compound. 1H NMR (500 MHz, CD3OD): δ 7.07 (ddd, 1H), 6.97 (dd, 1H), 6.94 (dd, 1H), 6.85 (ddd, 1H), 5.52 (d, 1H), 4.64 (d, 1H), 3.86 (s, 3H), 3.83 (s, 3H). LC-MS: m/e 231 (M+Na)+ (2.6 min).

reactant | 2,3-dihydro-1,4-benzodioxine-2-carboxylic acid | 5.6 mmol, 1.0 g | O1C(COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | trimethylsilyldiazomethane | 2 M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | methyl iodide | 28 mmol, 1.8 mL | CI | CH3I
reactant | potassium hexamethyldisilazide | 8.5 mmol, 0.5 M, 17 mL | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | methanol | 10 mL | CO | CH4O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-(2-Methoxyphenyloxy)propenoate | COC1=C(C=CC=C1)OC(C(=O)OC)=C | C11H12O4
